US05185098
A mixture of 7.8 g of crude 1-(3,4-difluorophenyl)-4-(1,4-dioxa-8-spiro[4.5]decyl) cyclohexanol, 1.05 ml of ethylene glycol, 1.05 g of Amberlyst® 15 (strongly acid ion exchange resin, Fluka AG) and 80 ml of ethylene chloride was refluxed through neutral aluminum oxide for 3 hours. Subsequently, the mixture was cooled to room temperature and washed twice with water. The aqueous phases were extracted twice with methylene chloride. The organic phases where dried over sodium sulfate, filtered and concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 96:4) gave 4,9 g of 8-[4-(3,4-difluorophenyl)-3-cyclohexenyl]-1,4-dioxaspiro [4.5]decane as colorless crystals.

reactant | 1-(3,4-difluorophenyl)-4-(1,4-dioxa-8-spiro[4.5]decyl) cyclohexanol | 7.8 g | FC=1C=C(C=CC1F)C1(CCC(CC1)C1CCC2(OCCO2)CC1)O | C20H26F2O3
reactant | ethylene glycol | 1.05 ml | C(CO)O | C2H6O2
reactant | Fluka AG | C[Si](C)(C)O[Si](C)(C)C | C6H18OSi2
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | ethylene chloride | 80 ml | C(CCl)Cl | C2H4Cl2
product | 8-[4-(3,4-difluorophenyl)-3-cyclohexenyl]-1,4-dioxaspiro [4.5]decane | 4,9 g | FC=1C=C(C=CC1F)C1=CCC(CC1)C1CCC2(OCCO2)CC1 | C20H24F2O2
